US04716169
2-(4-Aminosulphonyl-2-methoxy-phenyl)-imidazo[1,2-b]pyridazine
Prepared from 2-(4-aminosulphonyl-2-methoxyphenyl)-6-chloro-imidazo[1,2-b]pyridazine and hydrogen in the presence of Pd/C analogously to Example 54.

reactant | 2-(4-aminosulphonyl-2-methoxyphenyl)-6-chloro-imidazo[1,2-b]pyridazine | NS(=O)(=O)C1=CC(=C(C=C1)C=1N=C2N(N=C(C=C2)Cl)C1)OC | C13H11ClN4O3S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
product | 2-(4-Aminosulphonyl-2-methoxy-phenyl)-imidazo[1,2-b]pyridazine | NS(=O)(=O)C1=CC(=C(C=C1)C=1N=C2N(N=CC=C2)C1)OC | C13H12N4O3S
